US07319104B2
2-(4-bromophenyl)-4-cyclopropyl-1,3-oxazole
To a mixture of 2-cyclopropyl-2-oxoethyl 4-bromobenzoate (4.51 g, 15.93 mmol) and acetamide (4.71 g, 79.74 mmol) was added BF3/Et2O (1 ml). The mixture was heated at 140C for 8 h. Upon cooling, the mixture was partitioned between water and Et2O. The aqueous phase was extracted with Et2O (1×125 ml). The combined organic phases were washed with Water and brine, dried with MgSO4, and concentrated in vacuo. The crude material was purified by flash chromatography (CH2Cl2/hexanes, 30:70 to 50:50) to yield the title compound as a white crystalline solid (0.69 g, 16%).

reactant | 2-cyclopropyl-2-oxoethyl 4-bromobenzoate | 15.93 mmol, 4.51 g | BrC1=CC=C(C(=O)OCC(=O)C2CC2)C=C1 | C12H11BrO3
reactant | acetamide | 79.74 mmol, 4.71 g | C(C)(=O)N | C2H5NO
reactant | BF3 Et2O | 1 ml | B(F)(F)F.CCOCC
product | 2-(4-bromophenyl)-4-cyclopropyl-1,3-oxazole | 0.69 g, 16% | BrC1=CC=C(C=C1)C=1OC=C(N1)C1CC1 | C12H10BrNO
